US09085605B2
Synthesis of Fmoc-D-Glu-OH
In an ice-water bath, a solution of D-glutamic acid (H-D-Glu-OH, 29.4 g, 1.0 eq) in a mixture of acetone and H2O (V/V=1:1) was stirred. After the solid was fully dissolved, NaHCO3 (23.3 g, 1.1 eq) was added in portions, then Fmoc-OSu (67.4 g, 1.0 eq) were added slowly and the reaction was stirred for additional 3 days at r.t. The mixture was then cooled in ice-water bath again, and pH was adjusted to 2-3 with 2.0N HCl. After removal of acetone under reduced pressure, the remaining solution was extracted with AcOEt (400 mL×4). The organic layer was separated and combined, dried with MgSO4 overnight, and concentrated to a small volume under reduced pressure. Then residue was recrystallized with ethylacetate-cyclohexane system. After filtration, 59.8 g of target product was obtained as a white solid with a yield of 81%.

reactant | D-glutamic acid | 29.4 g, 1.0 eq | N[C@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | NaHCO3 | 23.3 g, 1.1 eq | C(=O)(O)[O-].[Na+]
reactant | Fmoc-OSu | 67.4 g, 1.0 eq | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)ON1C(=O)CCC1=O | C19H15NO5
reactant | HCl | 2.0N | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
solvent | H2O | O | H2O
product | Fmoc-D-Glu-OH | yield of 81% | N([C@H](CCC(O)=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C20H19NO6
